US09034880B2
Preparation of 1-(2-(8-chloro-1,2,3,4-tetrahydro-2-methylpyrido[4,3-b]indol-5-yl)ethyl)pyrrolidin-2-one (Compound 313)
The title compound is prepared by following Method 8 by using 1-(2-bromoethyl)pyrrolidin-2-one, 4-chlorophenylhydrazine hydrochloride, triethylamine and N-methyl-4-piperidone

reactant | 1-(2-bromoethyl)pyrrolidin-2-one | BrCCN1C(CCC1)=O | C6H10BrNO
reactant | 4-chlorophenylhydrazine hydrochloride | Cl.ClC1=CC=C(C=C1)NN
reactant | N-methyl-4-piperidone | CN1CCC(CC1)=O | C6H11NO
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 1-(2-(8-chloro-1,2,3,4-tetrahydro-2-methylpyrido[4,3-b]indol-5-yl)ethyl)pyrrolidin-2-one | ClC1=CC=2C3=C(N(C2C=C1)CCN1C(CCC1)=O)CCN(C3)C | C18H22ClN3O
